Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[H:11].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:12][H:13],3.7066894815300007
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:5]([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:4],1.37897576627
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],1.64036682263
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8].[H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9],-4.57482564802
[C:3]([H:4])([C:6]#[C:5][C:10]([H:11])([H:12])[H:13])[H:9].[H:1][C:2]#[C:7][H:8]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.08180373115
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:8]([H:9])([H:10])[H:11].[H:7]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-2.58686354057
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:9][C:10]([H:11])([H:12])[H:13].[H:3][C:7](=[C:4]([H:5])[H:6])[H:8],-1.24227773805
[H:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14],4.2929312285500005
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],1.96069610589
[H:1][C:2]([H:3])/[C:4](=[C:5](/[H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])=[C:4][C:12]([H:13])([H:14])[H:15],3.5687170693300003
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.80473650847
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8][H:9]>>[H:9].[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8],3.727307851780001
[C:1]#[C:2][C:3]#[C:4][O:5][H:6]>>[C:1]#[C:2].[C:3]#[C:4][O:5][H:6],7.10094396512
[C:4]([H:5])([H:6])[H:7].[H:1][C:2](=[O:3])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],0.1996447850599999
[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[O:7]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],1.68725385151
[C:1]#[C:2][C:4]([H:5])[C:6]#[C:7].[H:3]>>[C:1]=[C:2]([H:3])[C:4]([H:5])[C:6]#[C:7],-3.97725086129
[O:1]=[C:2]=[C:3][C:4]([H:5])=[C:6]=[O:7]>>[C:4]([H:5])#[C:6][O:7].[O:1][C:2][C:3],4.97910308193
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:8],2.64862183041
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])=[O:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2]#[C:3]/[C:4](=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.33871549337
[C:10][H:11].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-8.50610846052
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])#[C:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8],1.34146521624
[C:3]([H:4])(=[C:5]=[C:6]([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.03713998088
[C:1]=[C:2]([H:3])[H:4].[O:5][C:6](=[O:7])[H:8]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[O:7])[H:8],-1.02754720642
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][O:10][H:11]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[O:8][C:9][O:10][H:11].[H:4],1.87661764406
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],1.90911369125
[H:1][C:2]([H:3])([H:4])[O:5][C:6](=[O:7])[C:11]([C:8]([H:9])[H:10])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]1[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],1.32359119795
[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-0.974048042897
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7](=[O:6])[H:8]>>[H:1][O:2][C:3][C@:4]1([H:5])[O:6][C:7]1[H:8],2.85363621776
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4],4.29941606079
[O:1][C@:2]([H:3])([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:2]([H:3])([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11].[O:1],3.54528808625
